US05157041
0.224 g of N2 -(benzyloxycarbonyl)-N1 -tert.butyl-4(R)-hydroxy-L-prolinamide was dissolved in 20 ml of ethanol and hydrogenated over 50 mg of 10% palladium-on-carbon at room temperature and under atmospheric pressure for 2 hours. The catalyst was filtered off and the filtrate was evaporated to give 0.13 g of N1 -tert.butyl-4(R)-hydroxy-L-prolinamide which was used in the next step without further purification.

reactant | N2 (benzyloxycarbonyl)-N1 -tert.butyl-4(R)-hydroxy-L-prolinamide | 0.224 g | N#N.C(C1=CC=CC=C1)OC(=O)[C@@]1(N(C[C@@H](C1)O)C(C)(C)C)C(=O)N
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | 50 mg | [Pd] | Pd
product | N1 -tert.butyl-4(R)-hydroxy-L-prolinamide | 0.13 g | C(C)(C)(C)N1[C@H](C(=O)N)C[C@H](C1)O | C9H18N2O2
